US07183270B2
Part B. Preparation of 2-tert-Butoxycarbonylamino-5-trifluoromethoxy-benzoic acid
A solution of (4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester (2.31 g, 8.33 mMol) in anhydrous THF (50 mL) at −78° C. was treated with a 1.4 M solution of sec-butyllithium in cyclohexane (13 mL, 18.33 mMol), at a rate which did not allow the internal temperature to exceed −60° C. The solution was stirred at −78° C. for 15 minutes, then allowed to warm to −40° C. and stirred for 2.5 hours. The reaction was treated with gaseous CO2, stirred 30 minutes while warming to −20° C., then quenched with saturated ammonium chloride. The mixture was warmed to room temperature, and extracted with ethyl acetate (3×50 mL). The combined organic phases were washed with water (50 mL), brine (50 mL), dried over sodium sulfate, and concentrated in-vacuo. The residue was triturated with hot heptane to yield 1.9 g of white powder as product. NMR (500 MHz, DMSO) δ 12.89 (s, 1H), 8.24 (d, 1 H, J=9 Hz), 7.84 (s, 1H), 7.21 (d, 1H, J=7 Hz), 1.51 (s, 9 Hz). Yield=72%.

reactant | (4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | 8.33 mMol, 2.31 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC(F)(F)F)=O | C12H14F3NO3
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | cyclohexane | 18.33 mMol, 13 mL | C1CCCCC1 | C6H12
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-tert-Butoxycarbonylamino-5-trifluoromethoxy-benzoic acid | 1.9 g, Yield=72% | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)OC(F)(F)F | C13H14F3NO5
